US05773463
(±) trans 1-Anilino-2-methylaminoindane
To a stirred suspension of LiAlH4 (1.35 g, 0.035 mol) in dry tetrahydrofuran (25 ml) under nitrogen was added dropwise a solution of (±) trans-1-anilino-2-ethoxycarbonylaminoindane (3.50 g, 0.012 mol) in dry tetrahydrofuran (25 ml). The mixture was heated under reflux for 3.25 h. After cooling in ice, wet diethyl ether was added to quench excess LiAlH4, followed by a minimum amount of water. The precipitate was removed by filtration, and the filtrate was concentrated in vacuo to give a cream coloured solid (2.64 g) which was purified by recrystallisation to give the title compound as a colourless solid, m.p.121°-122° C. (from diethyl ether).

reactant | LiAlH4 | 0.035 mol, 1.35 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±) trans-1-anilino-2-ethoxycarbonylaminoindane | 0.012 mol, 3.50 g | N(C1=CC=CC=C1)[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OCC | C18H20N2O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (±) trans 1-Anilino-2-methylaminoindane | N(C1=CC=CC=C1)[C@H]1[C@@H](CC2=CC=CC=C12)NC | C16H18N2
